US07022851B2
1-(2-Nitrobenzenesulfonyl)-piperazin-2-one HCl salt
To a solution of N-(t-butoxycarbonyl)-N-[2-(2-nitro-benzenesulfonylamino)-ethyl]-glycine (8.06 g, 20 mmol) in dichloromethane (100 ml) was added dicyclohexyl carbodiimide (5.16 g, 25 mmol). After stirring for 2 hours at room temperature, the precipitate was removed by filtration. The filtrate was concentrated and the residue was dissolved in ethyl actate (50 mL) and cooled to 0° C. The precipitate solid was removed and to the filtrate was added 2N-HCl in ethyl acetate (100 mL). The mixture was stirred for additional 10 h at ambient temperature. The precipitate product was filtered off, washed with ethyl acetate (500 mL), and dried in vacuo to afford the title compound as a white solid 5.39 g (79%). 1H-NMR (500 MHz; DMSO-d6) δ 9.95 (br.s, 2H), 8.38 (d, 1H), 8.04˜7.95 (m, 2H), 4.09 (dd, 2H), 3.96 (s, 2H), 3.56 (dd, 2H).

reactant | N-(t-butoxycarbonyl)-N-[2-(2-nitro-benzenesulfonylamino)-ethyl]-glycine | 20 mmol, 8.06 g | C(C)(C)(C)OC(=O)N(CC(=O)O)CCNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C15H21N3O8S
reactant | dicyclohexyl carbodiimide | 25 mmol, 5.16 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-(2-Nitrobenzenesulfonyl)-piperazin-2-one HCl salt | 5.39 g, 79% | Cl.[N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N1C(CNCC1)=O | InChI=1S/C10H11N3O5S.ClH/c14-10-7-11-5-6-12(10)19(17,18)9-4-2-1-3-8(9)13(15)16;/h1-4,11H,5-7H2;1H
